US08471005B2
[4-(1,1-Dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenyl]-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine was prepared from 2-methanesulfinyl-7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazine and 4-(1,1-dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenylamine in an analogous manner to Example 1049. Product isolated as a yellow foam (10 mg, 6%). LCMS (m/e) 465 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.77 (d, 1H, J=2.1 Hz), 8.72 (s, 1H), 8.40 (dd, 1H, J=8.7 and 2.4 Hz), 7.58 (d, 2H, J=8.4 Hz), 7.26 (d, 2H, J=8.4 Hz), 6.94 (d, 1H, J=4.7 Hz), 6.92-6.84 (m, 2H), 6.82 (s, 1H), 4.04 (s, 3H), 3.62 (s, 2H), 3.10-3.03 (m, 4H), 3.03-2.96 (m, 4H).

reactant | 2-methanesulfinyl-7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazine | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=NC(=CC2)OC | C13H12N4O2S
reactant | 4-(1,1-dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenylamine | O=S1(CCN(CC1)CC1=CC=C(C=C1)N)=O | C11H16N2O2S
product | [4-(1,1-Dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenyl]-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C=2C=NC(=CC2)OC)=O | C23H24N6O3S
